US05110815
5,6,7,8-Tetrahydro-1-methyl-5-[[2-(4-nitrophenyl)ethyl]amino]-2(1H)-quinolinone
A mixture of 2-(4-nitrophenyl)ethylamine (3.4 g), 5,6,7,8-tetrahydro-1-methyl-5-oxo-2(1H)-quinolinone (3.0 g), and para-toluenesulfonic acid (256 mg) was heated in refluxing toluene (70 ml), with azeotropic removal of water, for a total of 72 hrs. An additional 1.0 g of the amine was added at 24 and 48 hrs. The resulting solution was cooled and concentrated in vacuo. Sodium borohydride (0.6 g) was added to a solution of the residue in ethyl alcohol (70 ml). The resulting mixture was stirred at room temperature for 1 hr, and the mixture was concentrated in vacuo. The residue was quenched with water, and the mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate concentrated. The residue was purified by high performance liquid chromatography (silica gel, eluted with methanol/ethyl acetate) to provide 3.8 g (69%) of product. Recrystallization from ethyl acetate afforded the analytical sample, mp 138°-139° C.,

reactant | 2-(4-nitrophenyl)ethylamine | 3.4 g | [N+](=O)([O-])C1=CC=C(C=C1)CCN | C8H10N2O2
reactant | 5,6,7,8-tetrahydro-1-methyl-5-oxo-2(1H)-quinolinone | 3.0 g | CN1C(C=CC=2C(CCCC12)=O)=O | C10H11NO2
reactant | para-toluenesulfonic acid | 256 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6,7,8-Tetrahydro-1-methyl-5-[[2-(4-nitrophenyl)ethyl]amino]-2(1H)-quinolinone | 3.8 g, 69% | CN1C(C=CC=2C(CCCC12)NCCC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H21N3O3
